US07217723B2
[2-(4-Fluorophenyl)ethyl]-methylamine
To a mixture solution of N-methyl benzylamine (11 g) in dichloromethane and an aqueous solution containing sodium bicarbonate (16 g) was added dropwise 4-fluorophenyl acetyl chloride (12 g) at room temperature with vigorously stirring. After stirring for 1 hour, the organic layer was separated and washed with 2N hydrochloric acid water, water, an aqueous solution of 2N sodium hydroxide and water, in this order. The organic layer was dried with anhydrous magnesium sulfate, and the colorless oily matter (18 g) was obtained. To a suspension of 4 lithium aluminum hydride (4.5 g) in tetrahydrofuran (250 mL) was added dropwise the oily substance (18 g) obtained above in tetrahydrofuran (250 mL) After stirring for 1 hour, water (4.5 mL), an aqueous solution of 15% sodium hydroxide (4.5 mL), and water (13.5 mL) were added in this order, and the resulting precipitate was removed by filtration. The residue that was obtained by evaporated the filtrate in vacuo was purified with NH silica gel (hexane/ethyl acetate), and the colorless oily matter (13.6 g) was obtained. This oily substance was dissolved in methanol (200 mL), a catalytic reduction by 5% palladium-carbon (1 g) was carried out at 50° C. under hydrogen atmosphere, and the title compound (8.55 g) was obtained as a light brown oily substance.

reactant | N-methyl benzylamine | 11 g | CNCC1=CC=CC=C1 | C8H11N
reactant | sodium bicarbonate | 16 g | C([O-])(O)=O.[Na+]
reactant | 4-fluorophenyl acetyl chloride | 12 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | lithium aluminum hydride | 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 4.5 mL | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
solvent | water | 13.5 mL | O | H2O
solvent | water | 4.5 mL | O | H2O
product | [2-(4-Fluorophenyl)ethyl]-methylamine | 8.55 g | FC1=CC=C(C=C1)CCNC | C9H12FN
